US06673795B2
In analogy to the procedure described in example 47a, the crude 4-chloro-6-(2-hydroxy-ethylamino)-2-methanesulfonyl-pyrimidine-5-carbonitrile was treated with 3-picolyl-amine in dioxane in the presence of N-ethyl-diisopropylamine at 40° C. to yield 4-chloro-6-(2-hydroxy-ethylamino)-2-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile as a brown solid which was used in the next step without further purification and characterization.

reactant | 4-chloro-6-(2-hydroxy-ethylamino)-2-methanesulfonyl-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)S(=O)(=O)C | C8H9ClN4O3S
reactant | 3-picolyl-amine | N1=CC(=CC=C1)CN | C6H8N2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-chloro-6-(2-hydroxy-ethylamino)-2-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)NCC=1C=NC=CC1 | C13H13ClN6O
